US07250418B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine but starting with 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.17, 1.25˜1.35, 2.50, 2.72, 3.45, 3.58, 3.75, 3.86, 4.04, 4.27, 4.93, 5.26, 6.55, 6.90, 7.02, 7.24; IR (diffuse reflectance) 2970, 2351 (w), 2337 (w), 2063 (w), 1604, 1568, 1549 (s), 1537 (s), 1482 (s), 1397, 1359, 1286, 1228, 1199, 1043 cm−1 HRMS (ESI) calcd for C24H30N5O2SCl+H1 488.1887. found 488.1880.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C21H29ClN4O2
product | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C24H30ClN5O2S
